### PR TITLE
Preservation

### PR DESCRIPTION
**Pull request by YuliaKorolenko**

### CODE REVIEW

File: LocalLang/Weakening.lean [hunk 1]
```diff
@@ -19,13 +21,50 @@ theorem subcontext_insert {Γ₁ Γ₂ : TypeContext} {name : String} {ty : LLTy
 theorem empty_subcontext (Γ : TypeContext) : TypeContext.subcontext {} Γ
     := by simp [TypeContext.subcontext]
 
+def union (outer inner : TypeContext) : TypeContext :=
+  inner.fold (fun acc key val => acc.insert key val) outer
+
+theorem union_empty (Γ : TypeContext) : Γ.union {} = Γ := by
+  simp [union, Std.HashMap.fold, Std.HashMap.insert]
+  sorry
```
Comment (jesyspa) [inline LocalLang/Weakening.lean:25]: I don't think this will hold, I would sooner prove that subcontext holds in both directions.

File: LocalLang/Weakening.lean [hunk 2]
```diff
@@ -19,13 +21,50 @@ theorem subcontext_insert {Γ₁ Γ₂ : TypeContext} {name : String} {ty : LLTy
...
+
+def Disjoint (Γ₁ Γ₂ : TypeContext) : Prop :=
+  ∀ x, Γ₁.contains x → ¬Γ₂.contains x
+
+theorem union_cons (Γ : TypeContext) (k : String) (v : LLType) (tail : List (String × LLType)) :
+  TypeContext.union Γ (Std.HashMap.ofList ((k, v) :: tail)) =
+  (TypeContext.union Γ (Std.HashMap.ofList tail)).insert k v := by
```
Comment (jesyspa) [inline LocalLang/Weakening.lean]: Similarly here, I suspect this is either trivial or impossible.

File: LocalLang/TypingGuarantees.lean [hunk 3]
```diff
@@ -25,60 +25,70 @@ theorem addBindings_typing (Γ : TypeContext) {ps : List String} {es : List Expr
...
+                · simpa [List.length] using h_len_eq
+                · apply Expr.TypeJdg.jdg_let_in (ty₁ := head_arg_type)
+                  · apply weakening_expr
+                    · apply TypeContext.subset_union_left
                       sorry
-                    · sorry
-                  · simp [List.length] at H_len_all
-                    exact H_len_all
+                    · exact h_e_typed
+                  · rw [List.zip_cons_cons, TypeContext.union_cons] at h_body_gen
```
Comment (jesyspa) [inline LocalLang/TypingGuarantees.lean:92]: Here you expect the contexts to be equal, but this is too strong: instead, what you want is that h_body_gen : TypeJdg Δ bd ty and Δ is a subcontext of Δ' so by weakening TypeJdg Δ' bd ty also holds.

File: LocalLang/Weakening.lean [hunk 4]
```diff
@@ -19,13 +21,50 @@ theorem subcontext_insert {Γ₁ Γ₂ : TypeContext} {name : String} {ty : LLTy
 theorem empty_subcontext (Γ : TypeContext) : TypeContext.subcontext {} Γ
     := by simp [TypeContext.subcontext]
 
+def union (outer inner : TypeContext) : TypeContext :=
```
Comment (YuliaKorolenko) [inline LocalLang/Weakening.lean]: rewrite to HashMap union
